US08119655B2
Compound 35: 3-(3-bromo-5-methylpyridin-2-ylamino)-5-chloro-1-(4-methoxybenzyl)pyrazin-2(1 H)-one
An oven dried, 2 L, three necked round bottom flask was charged with NaH (60% dispersion in oil, 11.9 g, 298.11 mmol), suspended in anhydrous tetrahydrofuran (500 mL) and cooled in an ice bath. To the cooled mixture, was added the solution of 2-amino-3-bromo-5-methyl pyridine (39.4 g, 210.433 mmol, 150 mL of anhydrous THF). The ice bath was removed and the reaction was allowed to warm to room temperature over a 1 h period. Via addition funnel, the solution of 3,5-dichloro-1-(4-methoxybenzyl)pyrazin-2(1H)-one (50.0 g, 175.36 mmol, 150 mL anhydrous tetrahydrofuran) was added in a rapid, drop-wise fashion, attached a reflux condenser and stirred in an oil bath heated at 72° C. (exothermic reaction occurred upon heating). After 3 h, the flask was removed from the oil bath, cooled to room temperature, quenched with isopropanol (15 mL) and BHT (0.075 g), and concentrated in vacuo to a dark crude. Chromatography on silica gel plug with ethyl acetate/DCM (3/97) afforded the desired product as a light tan solid. The mix fractions were combined, concentrated and the desired product was purified by recrystallization in ethyl acetate/diethyl ether and isolated by vacuum filtration. The two solid pools were combined (43 g, 56% yield) and verified by 1H-NMR and analytical LCMS. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.30 (s, 3 H) 3.74 (s, 3 H) 5.00 (s, 2 H) 6.93 (d, J=8.84 Hz, 2 H) 7.39 (s, 2 H) 7.42 (s, 1 H) 8.01 (s, 1 H) 8.28 (s, 1 H) 9.50 (s, 1 H). ESI-MS: m/z 437.2 (M+H)+.

reactant | NaH | 298.11 mmol, 11.9 g | [H-].[Na+]
reactant | 2-amino-3-bromo-5-methyl pyridine | 210.433 mmol, 150 mL, 39.4 g | NC1=NC=C(C=C1Br)C | C6H7BrN2
reactant | 3,5-dichloro-1-(4-methoxybenzyl)pyrazin-2(1H)-one | 175.36 mmol, 150 mL, 50.0 g | ClC=1C(N(C=C(N1)Cl)CC1=CC=C(C=C1)OC)=O | C12H10Cl2N2O2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 3-(3-bromo-5-methylpyridin-2-ylamino)-5-chloro-1-(4-methoxybenzyl)pyrazin-2(1 H)-one | 56% yield | BrC=1C(=NC=C(C1)C)NC=1C(N(C=C(N1)Cl)CC1=CC=C(C=C1)OC)=O | C18H16BrClN4O2
